US07332508B2
1-(1-Ethylpropyl)-4-{[5-(4-tert-butylphenyl)[1,2,4]oxadiazol-3-yl]methyl}Piperidine, Hydrochloride
The title compound was prepared by a similar procedure to that described in Example 12, starting from 2-((1-ethylpropyl)piperidin-4-yl)-N-hydroxyacetamidine and 4-tert-butylbenzoyl chloride.

reactant | 2-((1-ethylpropyl)piperidin-4-yl)-N-hydroxyacetamidine | C(C)C(CC)N1CCC(CC1)CC(=N)NO | C12H25N3O
reactant | 4-tert-butylbenzoyl chloride | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
product | 1-(1-Ethylpropyl)-4-{[5-(4-tert-butylphenyl)[1,2,4]oxadiazol-3-yl]methyl}Piperidine, Hydrochloride | Cl.C(C)C(CC)N1CCC(CC1)CC1=NOC(=N1)C1=CC=C(C=C1)C(C)(C)C | InChI=1S/C23H35N3O.ClH/c1-6-20(7-2)26-14-12-17(13-15-26)16-21-24-22(27-25-21)18-8-10-19(11-9-18)23(3,4)5;/h8-11,17,20H,6-7,12-16H2,1-5H3;1H
